US05112947
(3) H-Asn-Thr-Pro-Arg-OH acetate
150 mg of Z-Asn-Thr-Pro-Arg(NO2)-OBzl was reduced in the presence of palladium-carbon in the same manner as in Example 7-(4). The resulting product was purified by high-performance liquid chromatography at 12 ml/min. (flow rate), 0 to 10% (B) 20 min. linear gradient (A) (mobile phase), subjected to Dowex 1×2 (acetate type) treatment and freeze-dried to obtain the desired compound.

reactant | Z-Asn-Thr-Pro-Arg(NO2)-OBzl | 150 mg | N([C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OCC1=CC=CC=C1 | C34H45N9O11
catalyst | palladium-carbon | [C].[Pd]
product | H-Asn-Thr-Pro-Arg-OH acetate | N[C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCC1.CC(=O)O | InChI=1S/C19H34N8O7.C2H4O2/c1-9(28)14(26-15(30)10(20)8-13(21)29)17(32)27-7-3-5-12(27)16(31)25-11(18(33)34)4-2-6-24-19(22)23;1-2(3)4/h9-12,14,28H,2-8,20H2,1H3,(H2,21,29)(H,25,31)(H,26,30)(H,33,34)(H4,22,23,24);1H3,(H,3,4)/t9-,10+,11+,12+,14+;/m1./s1
